US04997835
24.3 ml of 2,4-dimethylpyridine were dissolved in 80 ml of glacial acetic acid, the solution was mixed with 30 ml of 30% hydrogen peroxide and refluxed for 25 hours. The solution was then adjusted to approximately pH 8 with saturated sodium carbonate solution, the solution was extracted with dichloromethane and the organic phase rotated in. The residue was mixed with 90 ml of acetic anhydride and refluxed for 1.5 hours. The pH-value of the solution was adjusted to approximately 8 with 40% NaOH and the solution was extracted with trichloromethane. 30 g of crude 4-methyl-2-acetoxymethylpyridine were obtained.

reactant | 2,4-dimethylpyridine | 24.3 ml | CC1=NC=CC(=C1)C | C7H9N
reactant | hydrogen peroxide | 30 ml | OO | H2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 4-methyl-2-acetoxymethylpyridine | 30 g | CC1=CC(=NC=C1)COC(C)=O | C9H11NO2
